US06933295B2
N-{2-[3-(Aminomethyl)benzyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide
40 ml of a mixture of TFA and water (9:1) are added dropwise to an ice-cooled mixture of 3.95 g (7.5 mmol) of tert-butyl 3-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzylcarbamate in 40 ml of chloroform. Ice-cooling is removed and the solution is stirred at room temperature for 2 h and then concentrated. The residue is taken up in dichloromethane/methanol (98:2) and the mixture is washed with sat. sodium bicarbonate solution, dried over magnesium sulfate and concentrated. Yield: 3.22 g (97.8% of theory);

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | O | H2O
reactant | tert-butyl 3-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzylcarbamate | 7.5 mmol, 3.95 g | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1)=O | C26H24ClN3O5S
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[3-(Aminomethyl)benzyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide | NCC=1C=C(CN2C(C3=CC=CC(=C3C2=O)NC(=O)C=2SC(=CC2)Cl)=O)C=CC1 | C21H16ClN3O3S
